US07763657B2
3-(4-tert-Butylphenyl)-N-(3-fluoro-4-methanesulfonylamino-5-vinylbenzyl)-2-methylacrylamide
N-(4-Aminomethyl-2-fluoro-6-vinylphenyl)methanesulfonamide (0.15 mmol, 54.21 mg), 3-(4-tert-butyl-phenyl)-2-methylacrylic acid (0.14 mmol, 30 mg), DEPC (1.2 eq, 0.17 mmol, 25.49 μl), and TEA (2 eq, 0.28 mmol, 39.03 μl) were added in DMF. The reaction mixture was stirred for 12 hrs. The reaction mixture was purified according to similar procedure of Example 21 to yield title product (34.8 mg, 55.96%).

reactant | N-(4-Aminomethyl-2-fluoro-6-vinylphenyl)methanesulfonamide | 0.15 mmol, 54.21 mg | NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)F | C10H13FN2O2S
reactant | 3-(4-tert-butyl-phenyl)-2-methylacrylic acid | 0.14 mmol, 30 mg | C(C)(C)(C)C1=CC=C(C=C1)C=C(C(=O)O)C | C14H18O2
reactant | DEPC | 0.17 mmol, 25.49 μl, 1.2 eq | CCOC(=O)OC(=O)OCC | C6H10O5
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(4-tert-Butylphenyl)-N-(3-fluoro-4-methanesulfonylamino-5-vinylbenzyl)-2-methylacrylamide | 34.8 mg, 55.96% | C(C)(C)(C)C1=CC=C(C=C1)C=C(C(=O)NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)F)C | C24H29FN2O3S
